US07592453B2
(2R)—N-(2-Phenylethyl)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a, 4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}piperidine-1-carboxamide
In the same manner as in Example 135 and using (3aS,4S,9bS)-4-phenyl-1-[(2R)-piperidin-2-ylcarbonyl]-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline dihydrochloride and phenethylisocyanate, the title compound was synthesized.

reactant | (3aS,4S,9bS)-4-phenyl-1-[(2R)-piperidin-2-ylcarbonyl]-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline dihydrochloride | Cl.Cl.C1(=CC=CC=C1)[C@H]1NC=2C=CC=CC2[C@@H]2[C@H]1CCN2C(=O)[C@@H]2NCCCC2
reactant | phenethylisocyanate | C(CC1=CC=CC=C1)N=C=O | C9H9NO
product | (2R)—N-(2-Phenylethyl)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a, 4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}piperidine-1-carboxamide | C1(=CC=CC=C1)CCNC(=O)N1[C@H](CCCC1)C(=O)N1CC[C@@H]2[C@@H](NC=3C=CC=CC3[C@@H]21)C2=CC=CC=C2 | C32H36N4O2
